US04340740
Methanol (1 ml) and 1 ml of water were added to 200 mg of alpha-(m-benzoylphenyl)propionitrile, and 50 mg of sodium hydroxide was added. The mixture was heated under reflux for 24 hours. The reaction mixture was cooled, and after adding 10 ml of water, extracted with 5 ml of ether three times. The extract was washed with 5 ml of water three times. The aqueous layers were combined, and after adding conc. hydrochloric acid to adjust the pH to below 1, were extracted with 5 ml of ether three times. The extract was washed with 5 ml of water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The oily residue was purified by column chromatography (silica gel; methylene chloride and ethyl acetate) to afford 181 mg (yield 84%) of alpha-(m-benzoylphenyl)propionic acid as colorless crystals. The IR spectrum and NMR spectrum of the product coincided completely with those of an authentic sample.

reactant | Methanol | 1 ml | CO | CH4O
reactant | alpha-(m-benzoylphenyl)propionitrile | 200 mg | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)C(C#N)C | C16H13NO
reactant | sodium hydroxide | 50 mg | [OH-].[Na+]
reactant | water | 10 ml | O | H2O
reactant | water | 1 ml | O | H2O
product | alpha-(m-benzoylphenyl)propionic acid | 181 mg, yield 84% | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)C(C(=O)O)C | C16H14O3
